US07612099B2
4-Hydroxy-3-{[3-(2-hydroxy-ethyl)-1H-indol-2-yl]-phenyl-methyl}-5-isopropyl-1,5-dihydro-pyrrol-2-one
A solution of acetic acid 2-{2-[(4-hydroxy-5-isopropyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl ester (40 mg) and LiOH (8.5 mg ) in MeOH (0.5 ml) was stirred at 22° C. for 30 min and evaporated. The residue was partitioned between 0.1 N aqueous HCl and AcOEt and the organic layer was dried and evaporated. The residue was chromatographed on silica using CH2Cl2/MeOH (10:3) to give the title compound as an orange foam. MS: 391.1 ([M+H]+).

reactant | acetic acid 2-{2-[(4-hydroxy-5-isopropyl-2-oxo-2,5-dihydro-1H-pyrrol-3-yl)-phenyl-methyl]-1H-indol-3-yl}-ethyl ester | 40 mg | OC1=C(C(NC1C(C)C)=O)C(C=1NC2=CC=CC=C2C1CCOC(C)=O)C1=CC=CC=C1 | C26H28N2O4
reactant | LiOH | 8.5 mg | [Li+].[OH-]
solvent | MeOH | 0.5 ml | CO | CH4O
product | 4-Hydroxy-3-{[3-(2-hydroxy-ethyl)-1H-indol-2-yl]-phenyl-methyl}-5-isopropyl-1,5-dihydro-pyrrol-2-one | OC1=C(C(NC1C(C)C)=O)C(C1=CC=CC=C1)C=1NC2=CC=CC=C2C1CCO | C24H26N2O3
